US04753933
A mixture composed of 4-aminobenzoic acid (10 g), 1N aqueous sodium bicarbonate solution (365 cc) and ethyl chloroformate (7 cc) is left stirring for 30 minutes at 5° C. 2.5N hydrochloric acid (150 cc) is then added to the reaction mixture. The precipitate formed is separated by filtration, washed with water (3×200 cc) and dried at 40° C. under reduced pressure (0.07 kPa). 4-(Ethoxycarbonylamino)benzoic acid (13.8 g), m.p. 207° C., is obtained.

reactant | 4-aminobenzoic acid | 10 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | sodium bicarbonate | 1N, 365 cc | C([O-])(O)=O.[Na+]
reactant | ethyl chloroformate | 7 cc | ClC(=O)OCC | C3H5ClO2
solvent | hydrochloric acid | 2.5N, 150 cc | Cl | ClH
product | 4-(Ethoxycarbonylamino)benzoic acid | 13.8 g | C(C)OC(=O)NC1=CC=C(C(=O)O)C=C1 | C10H11NO4
